************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G4_XOR2_N3
* View Name:     schematic
* Netlisted on:  Mar 18 16:23:32 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G4_XOR2_N3
* View Name:    schematic
************************************************************************

.SUBCKT G4_XOR2_N3 A B Vdd Vss Z
*.PININFO A:I B:I Z:O Vdd:B Vss:B
XI20 net1 Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI16 net2 Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N3
XI21 Z B net2 B Vdd / TIGFET_PCELL_SP15CP15_N3
XI17 Z net2 net1 net2 Vss / TIGFET_PCELL_SP15CP15_N3
XI22 net1 Vss B Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI18 net2 Vss A Vss Vdd / TIGFET_PCELL_SP15CP15_N3
XI23 Z net1 A net1 Vdd / TIGFET_PCELL_SP15CP15_N3
XI19 Z A B A Vss / TIGFET_PCELL_SP15CP15_N3
.ENDS

